US07473784B2
To a solution of (2-(sec-butylamino)thiazolo[5,4-b]pyridin-5-yl)methanol (0.1155 g, 0.487 mmol, 1.0 eq.) in THF (3.5 mL) under nitrogen was added MnO2 (0.6357 g, 7.3 mmol, 15.0 eq.). After 1 hr, the reaction solution was filtered through Celite and rinsed with THF. The filtrate was concentrated in vacuo to give crude 2-(sec-butylamino)thiazolo[5,4-b]pyridine-5-carbaldehyde as a colorless oil which was carried to the next step without purification.

reactant | (2-(sec-butylamino)thiazolo[5,4-b]pyridin-5-yl)methanol | 0.487 mmol, 0.1155 g, 1.0 eq. | C(C)(CC)NC=1SC2=NC(=CC=C2N1)CO | C11H15N3OS
solvent | THF | 3.5 mL | C1CCOC1 | C4H8O
catalyst | MnO2 | 7.3 mmol, 0.6357 g, 15.0 eq. | O=[Mn]=O
product | 2-(sec-butylamino)thiazolo[5,4-b]pyridine-5-carbaldehyde | C(C)(CC)NC=1SC2=NC(=CC=C2N1)C=O | C11H13N3OS
